US03972864
Preparation of methyl α-n-octadecylacrylate:
After addition of dimethyl malonate (0.50 mole) to a solution of sodium methylate (0.50 mole in 400 ml methanol), octadecyl bromide (0.45 mole) is added dropwise. The reaction mixture was heated gently during the addition and the mixture was refluxed for 10 hours after addition of the halide. At the end of this time, the methanol was distilled off. The residue was cooled and stirred with 500 ml of water. The product, a pasty solid, floated on top of the water, and ether (350 mole) was added to dissolve it. The ether layer was evaporated, and the product was recrystallized from 900 ml of methanol. After recrystallization from methanol and drying in a vacuum oven, a 69.2 percent yield was obtained, m.p. 45°-47° C. The dimethyl-n-octadecylmalonate (0.17 mole), dissolved in 200 ml of methanol, was added to a solution of 11.3g potassium hydroxide (86.1 percent) in 45 ml of methanol. The mixture was stirred for 1.5 days and the potassium salt which separated was filtered. The salt was dissolved in 500 ml of water with stirring. After acidifying with 6N HCl, the solution was stirred for 3 hours to flocculate the precipitate. The product was filtered, washed and dried in a vacuum oven. A 95 percent yield was obtained, m.p. 68°-70° C. Methyl hydrogen octadecylmalonate (0.16 mole), diethyl amine (0.16 mole), and 13g of a 37 percent formaldehyde solution were stirred with heating to initiate the reaction, after which stirring was continued without heating for 6 hours. After standing overnight, impure solid acrylate had settled out. The pasty product layer was washed with hydrochloric acid followed by water until neutral (sodium sulfate was used to break emulsions formed during the washing). The ether layer was dried over anhydrous potassium carbonate. The solution was filtered and evaporated. The compound was crystallized from benzene. A 40 percent yield was obtained, m.p. 48°-50°C.

reactant | dimethyl malonate | 0.50 mole | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | sodium methylate | 0.50 mole, 400 ml | C[O-].[Na+]
reactant | octadecyl bromide | 0.45 mole | C(CCCCCCCCCCCCCCCCC)Br | C18H37Br
reactant | ether | 350 mole | CCOCC | C4H10O
reactant | dimethyl-n-octadecylmalonate | 0.17 mole | COC(C(C(=O)OC)CCCCCCCCCCCCCCCCCC)=O | C23H44O4
reactant | potassium hydroxide | 11.3g | [OH-].[K+]
reactant | Methyl hydrogen octadecylmalonate | 0.16 mole | C(CCCCCCCCCCCCCCCCC)C(C(=O)OC)C(=O)O | C22H42O4
reactant | diethyl amine | 0.16 mole | C(C)NCC | C4H11N
reactant | formaldehyde | C=O | CH2O
reactant | acrylate | C(C=C)(=O)[O-]
solvent | methanol | 200 ml | CO | CH4O
solvent | methanol | 45 ml | CO | CH4O
solvent | water | O | H2O
product | methyl α-n-octadecylacrylate | 69.2 percent yield | C(CCCCCCCCCCCCCCCCC)C(C(=O)OC)=C | C22H42O2
